US07932271B2
3-[5-Chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionic acid
To a tetrahydrofuran (2 ml) solution of methyl 3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionate (92 mg, 0.17 mmol) were added methanol (2 ml) and a 1N aqueous solution of sodium hydroxide (2 ml) at 0° C. The resulting mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 1N hydrochloric acid and the product thus obtained was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was washed with ethanol and collected by filtration to give the title compound (61 mg, 0.12 mmol, 68%) as a white solid.

reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | methyl 3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionate | 0.17 mmol, 92 mg | ClC=1C(=CC(=NC1)CCC(=O)OC)C(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=C(C=CC(=C1)F)F | C23H17ClF5NO4S
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-[5-Chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionic acid | 0.12 mmol, 61 mg, 68% | ClC=1C(=CC(=NC1)CCC(=O)O)C(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=C(C=CC(=C1)F)F | C22H15ClF5NO4S
